US03957871
A solution of 2.76 grams of ethyl-4-iodobenzoate in 10 ml. of ether is placed in a dry flask. The solution is cooled in an ice bath and is stirred. Over a 5 minute period, 26.5 ml. of a 1.52 M ethereal solution of methyl magnesium bromide is added. The solution is stirred for 3 hours while in the ice bath. Water (6 ml.) is added dropwise while stirring. The solution is filtered and the filter cake is washed with six 20 ml. portions of ether. The combined ether phases are dried over magnesium sulfate and filtered. Removal of the ether gives α,α-dimethyl-4-iodobenzyl alcohol as a clear, light yellow liquid.

reactant | ethyl-4-iodobenzoate | 2.76 grams | C(C)OC(C1=CC=C(C=C1)I)=O | C9H9IO2
reactant | ether | CCOCC | C4H10O
reactant | methyl magnesium bromide | C[Mg]Br
solvent | Water | 6 ml | O | H2O
product | α,α-dimethyl-4-iodobenzyl alcohol | CC(C1=CC=C(C=C1)I)(C)O | C9H11IO
